US08835420B2
(S)-2,4-Diamino-6-((1-(3-hydroxy-1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile
1N NaOH was added to a 50 mL pear flask charged with (S)-5-(1-((2,6-diamino-5-cyanopyrimidin-4-yl)amino)ethyl)-1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-3-yl acetate (3.29 g, 7.29 mmol) in methanol (25 mL). The reaction was complete within about 15 minutes. Saturated sodium bicarbonate solution was added. The aqueous layer was extracted with EtOAc (3×). The combined organic layers were dried over MgSO4, filtered, and concentrated. The crude product was purified by preparative HPLC (acid mode, 5% to 25% ACN/water gradient). The product-containing fractions were pooled, neutralized with saturated sodium bicarbonate, and then extracted with EtOAc (3×). The combined organic layers were dried over MgSO4, filtered, and concentrated to give the title compound as an off-white solid (210 mg, 7.04%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.34 (d, J=6.57 Hz, 3 H), 2.70-2.80 (m, 2 H), 2.96-3.07 (m, 2 H), 3.15 (s, 3 H), 3.63 (d, J=2.53 Hz, 2 H), 3.71-3.88 (m, 4 H), 5.78-5.96 (m, 1 H), 6.07 (s, 1 H), 6.41 (br s, 2 H), 6.60 (s, 2 H), 7.33 (s, 1 H); ESI-MS m/z [M+H]+ calc'd for C19H23N9O2, 410; found 410.

reactant | NaOH | 1N | [OH-].[Na+]
reactant | (S)-5-(1-((2,6-diamino-5-cyanopyrimidin-4-yl)amino)ethyl)-1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-3-yl acetate | 7.29 mmol, 3.29 g | C(C)(=O)OC1=CN(C=2C1=NC(=C(C2)N2CCOCC2)[C@H](C)NC2=NC(=NC(=C2C#N)N)N)C | C21H25N9O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | (S)-2,4-Diamino-6-((1-(3-hydroxy-1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | 210 mg, 7.04% | NC1=NC(=C(C(=N1)N)C#N)N[C@@H](C)C1=C(C=C2C(=N1)C(=CN2C)O)N2CCOCC2 | C19H23N9O2
